US08242145B2
Step 4: {3-[2-(2-Oxo-4,8b-dihydro-3aH-indeno[2,1-d]oxazol-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester
Prepared according to the procedure described in Example 45, Step 4, using the following starting materials: (3-{2-[((S)-1-hydroxy-indan-2-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester and phosgene (1.9M in toluene).

reactant | (3-{2-[((S)-1-hydroxy-indan-2-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC1[C@H](C2=CC=CC=C2C1)O)=O | C26H24F3NO4
reactant | phosgene | 1.9M | C(=O)(Cl)Cl | CCl2O
product | {3-[2-(2-Oxo-4,8b-dihydro-3aH-indeno[2,1-d]oxazol-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(OC2C1CC1=CC=CC=C12)=O)=O | C27H22F3NO5
